data/rdb19/train.csv
rxn,smiles,ea
1571,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:18]([O:17][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([O:19])[C:20](=[C:21]([H:28])[H:29])[H:27],45.45042835123604
311,[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([O:2])[H:3]>>[C:4]([C:5]([C:6]([C:7]([H:18])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([O:2][H:19])[H:3],25.159238349064253
4139,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]=[O:22])([H:26])([H:27])[H:28].[H:15][O:23][C:24](=[C:25]([H:30])[H:31])[H:29],73.87232824007515
2934,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:20]([C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[H:28])([H:21])[H:22])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],49.24438042548718
3397,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:17]([H:23])([H:24])[H:25],84.34420664655045
689,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31],54.092160682193935
4424,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])[H:24])([H:20])([H:21])[H:22].[C:1]([H:7])([H:8])([H:9])[H:23].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],89.23292871937156
336,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:4]([H:8])([H:9])[H:10])[H:3].[O:5][C:6](=[C:7]([H:12])[H:13])[H:11],59.90051058211248
4285,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],10.254536073713098
1280,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14](=[C:15]([N:16][C:17](=[O:18])[H:23])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],28.722096711979248
3391,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:23])([H:5])([H:6])[H:7],37.97003258398036
1887,[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],27.78686338692205
1149,[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18][H:23])[H:21])([H:19])[H:20],31.67446626810124
